US04554366
Embodiment 121--(±)-2-exo-(Benzyloxy-1-methyl-7-oxabicyclo[2.2.1]heptane.
By procedures similar to those described in Embodiment 3, (+)-2-exo-hydroxy-1-methyl-7-oxabicyclo[2.2.1]heptane was prepared by treatment of 4-methyl-3-cyclohexen-1-one with sodium borohydride followed by epoxidation-cyclization and ether formation to yield the desired product, b.p. 100°-101° C. (0.2 mm).

reactant | 4-methyl-3-cyclohexen-1-one | CC1=CCC(CC1)=O | C7H10O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ether | CCOCC | C4H10O
product | Benzyloxy-1-methyl-7-oxabicyclo[2.2.1]heptane | C(C1=CC=CC=C1)OC1C2(CCC(C1)O2)C | C14H18O2
